US07585886B2
A 240 mg portion of [(3R,4S)-4-(3-fluorophenyl)pyrrolidin-3-yl]methanol obtained by eliminating benzyl from (3R,4S)-1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(3-fluorophenyl)pyrrolidine in the same manner as in Reference Example 17 was dissolved in 2.4 ml of dichloromethane, mixed with 235 mg of monoethyl adipate, 229 mg of WSC and 199 mg of HOBt and stirred at room temperature for 3Hours. The reaction solution was washed with water and dried with anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. By purifying the residue by a silica gel column chromatography (chloroform-methanol), 320 mg of ethyl 6-[(3S,4R)-3-(3-fluorophenyl)-4-(hydroxymethyl)pyrrolidin-1-yl]-6-oxohexanoate was obtained as a pale yellow oily substance.

reactant | (3R,4S)-1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(3-fluorophenyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=CC=C1)F)CO[Si](C)(C)C(C)(C)C | C24H34FNOSi
reactant | monoethyl adipate | 235 mg | C(CCCCC(=O)[O-])(=O)OCC
reactant | WSC | 229 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 199 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 2.4 ml | ClCCl | CH2Cl2
product | ethyl 6-[(3S,4R)-3-(3-fluorophenyl)-4-(hydroxymethyl)pyrrolidin-1-yl]-6-oxohexanoate | 320 mg | FC=1C=C(C=CC1)[C@H]1CN(C[C@@H]1CO)C(CCCCC(=O)OCC)=O | C19H26FNO4
